US06969730B2
2-iodo-1,3-benzenediol
Resorcinol (2.75 g, 25 mmol) in 20 mL of water and ice was treated with iodine (6.7 g, 26.4 mmol) and NaHCO3 (2.3 g, 27.4 mmol) in one portion. After stirring for 1 hour, the precipitate was separated by filtration and the filtrate was extracted twice (2×75 mL) with diethyl ether. The organic phase was dried over sodium sulfate and evaporated under reduced pressure. The solid was triturated with 20 ML of chloroform and left at −18° C. for 24 hours. The solid was separated by filtration to provide the title compound (78% yield). 1HNMR (300 MHz, CDCl3) δ 4.85 (s, 1H), 6.30 (m, 2H), 6.95 (m, 1H). MS (CDI) m/z 237 (M+H)+.

reactant | Resorcinol | 25 mmol, 2.75 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | iodine | 26.4 mmol, 6.7 g | II | I2
reactant | NaHCO3 | 27.4 mmol, 2.3 g | C(=O)(O)[O-].[Na+]
solvent | water | 20 mL | O | H2O
product | 2-iodo-1,3-benzenediol | 78% yield | IC1=C(C=CC=C1O)O | C6H5IO2
